US05834501
Methyl 4-aminophenoxyacetate
A procedure similar to that described in Example 6 was repeated, except that 30.8 g of methyl 4-nitro-phenoxyacetate (prepared as described in Preparation 36), 5.0 g of 10% w/w palladium-on-charcoal and 500 ml of methanol were used, to give 25.8 g of the title compound having Rf=0.79 (on silica gel thin layer chromatography using ethyl acetate as the developing solvent).

reactant | methyl 4-nitro-phenoxyacetate | 30.8 g | [N+](=O)([O-])C1=CC=C(OCC(=O)OC)C=C1 | C9H9NO5
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | 500 ml | CO | CH4O
product | Methyl 4-aminophenoxyacetate | 25.8 g | NC1=CC=C(OCC(=O)OC)C=C1 | C9H11NO3
